US05726191
9.3 g of (2-adamantan-1-yl-4-bromo-phenoxy)-tert-butyl-dimethylsilane were dissolved in 120 ml of absolute tetrahydrofuran and treated dropwise at -78° C. with 15.5 ml of a 1.6 molar solution of n-butyl-lithium in hexane. After stirring at -78° C. for 1.5 hours, a vigorous stream of carbon dioxide was introduced for one hour. Subsequently, the reaction mixture was firstly poured into ice-cold, saturated, aqueous ammonium chloride solution, acidified cautiously to pH 3 with cold 2N hydrochloric acid and extracted with ethyl acetate. After washing once with water, drying over sodium sulfate and evaporation there was obtained a white, crystalline mass which was recrystallized from ethyl acetate and gave 7 g of 3-adamantan-1-yl-4-(tert-butyl-dimethyl-silanyloxy)-benzoic acid, m.p. 250°-252° C.

reactant | (2-adamantan-1-yl-4-bromo-phenoxy)-tert-butyl-dimethylsilane | 9.3 g | C12(CC3CC(CC(C1)C3)C2)C2=C(O[Si](C)(C)C(C)(C)C)C=CC(=C2)Br | C22H33BrOSi
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-adamantan-1-yl-4-(tert-butyl-dimethyl-silanyloxy)-benzoic acid | 7 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)O)C=CC2O[Si](C)(C)C(C)(C)C | C23H34O3Si
